US06017919
3-Bromo-4-methoxybenzoic acid (8.75 g, 37.9 mmol), toluene (80 ml), ethyl acetate (20 m1l), methylene chloride (20 ml) and DMF (1 drop) were mixed, and to this solution was added thionyl chloride (6.5 ml, 90 mmol). The mixture was stirred at 70° C. for 0.5 hour. The reaction mixture was concentrated under reduced pressure, and toluene was added. The mixture was further concentrated under reduced pressure. Methylene chloride (160 ml) was added to the obtained residue, and this solution was cooled to 0° C. 2-Amino-2-methyl-1-propanol (7.64 nil, 80 mmol) was added dropwise, and the mixture was stirred at room temperature for 14 hours. The precipitated crystals were filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (200 ml), and this solution was washed with 1N hydrochloric acid (50 ml). This solution was dried over anhydrous magnesium sulfate, and the drying agent was filtered off. The filtrate was concentrated under reduced pressure. The obtained residue and methylene chloride (150 ml) were mixed, and thionyl chloride (10.9 ml, 150 mmol) was added under ice-cooling. The mixture was stirred at room temperature for 2 hours. To this reaction mixture were successively added water (13 ml) and a 50% aqueous sodium hydroxide solution (40 ml) under ice-cooling. The aqueous layer was extracted 3 times with ethyl acetate (100 ml). The organic layers were combined, washed twice with saturated brine (100 ml). This solution was dried over anhydrous magnesium sulfate, and the drying agent was filtered off. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography (hexane/ethyl acetate=2/1-1/2) to give 2-(3-bromo-4-methoxyphenyl)4,4-dimethyl-4,5-dihydrooxazole (7.10 g, 66%) as a colorless oil.

reactant | 3-Bromo-4-methoxybenzoic acid | 37.9 mmol, 8.75 g | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | thionyl chloride | 90 mmol, 6.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Amino-2-methyl-1-propanol | 80 mmol | NC(CO)(C)C | C4H11NO
reactant | thionyl chloride | 150 mmol, 10.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | water | 13 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromo-4-methoxyphenyl)4,4-dimethyl-4,5-dihydrooxazole | 7.10 g, 66% | BrC=1C=C(C=CC1OC)C=1OCC(N1)(C)C | C12H14BrNO2
